US05409943
(a) 2-Amino-3-(4-chlorobenzyloxy)pyridine
A mixture of 2-amino-3-hydroxy pyridine (3.45 g, 0.313 mol), dichloromethane (20 ml) and 40% aqueous sodium hydroxide solution (20 ml) was stirred for five minutes, then 2chlorobenzyl bromide (6.09 g, 0.0315 mol) and Adogen 464 (3 ml) were added and stirring continued for 16 hours. The mixture was diluted with water and extracted with dichloromethane. Drying and evaporation of the organic extracts, and trituration with ether gave the desired product. Yield 3.5 g (48%), m.p. 121°-123 ° C.

reactant | 2-amino-3-hydroxy pyridine | 0.313 mol, 3.45 g | NC1=NC=CC=C1O | C5H6N2O
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | 2chlorobenzyl bromide | 0.0315 mol, 6.09 g | ClC1=C(CBr)C=CC=C1 | C7H6BrCl
catalyst | Adogen 464 | 3 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | 2-Amino-3-(4-chlorobenzyloxy)pyridine | NC1=NC=CC=C1OCC1=CC=C(C=C1)Cl | C12H11ClN2O
